Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
___ with C2/C3 fracture, head lac and UTI
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ who presented to the ED yesterday at 11 pm after a fall from 
2 steps. The patient lost her balance and fell backwards, 
+headstrike, no LOC, recalls the event. She complained of pain 
in the back of her head where she noted bleeding and neck pain. 
She was seen at OSH where CT C spine showed a C2/C3 fracture. 
She was transferred for Neurosurgery evaluation. 

 
Past Medical History:
-DM type II
-Hypothyroidism 
-___ esophagus 
-Osteoarthritis
-Osteoporosis 
-Uterine prolapse s/p sling
-Right shoulder fracture
-Right hip fracture and replacement
-Labyrinthitis

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam
Alert and oriented
NAD
Fibrinous exudate in the posterior scalp, well approximated lac, 
no bleeding, no crepitus
C collar in place
Face stable, no pain, no crepitus
Chest non tender
CTA bil
RRR
Abdomen soft, non tender
Pelvis stable
Extremities: motor, sensory and pulses intact, bruise on the 
left arm

 
Pertinent Results:
___ 02:20AM   ___ COMMENTS-GREEN TOP 
___ 02:20AM   LACTATE-1.4
___ 02:00AM   GLUCOSE-159* UREA N-28* CREAT-1.2* SODIUM-142 
POTASSIUM-5.1 CHLORIDE-111* TOTAL CO2-14* ANION GAP-17
___ 02:00AM   estGFR-Using this
___ 02:00AM   WBC-11.9* RBC-3.72* HGB-10.3* HCT-31.6* 
MCV-85 MCH-27.7 MCHC-32.6 RDW-13.4 RDWSD-41.1
___ 02:00AM   NEUTS-77.0* LYMPHS-15.6* MONOS-5.8 EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-9.13* AbsLymp-1.85 AbsMono-0.69 
AbsEos-0.06 AbsBaso-0.05
___ 02:00AM   PLT COUNT-231
___ 02:00AM   ___ PTT-25.4 ___
___ 01:17AM URINE  HOURS-RANDOM
___ 01:17AM URINE  HOURS-RANDOM
___ 01:17AM URINE  UHOLD-HOLD
___ 01:17AM URINE  GR HOLD-HOLD
___ 01:17AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:17AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 01:17AM URINE  RBC-<1 WBC-10* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 01:17AM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
___ F admitted s/p fall found to have C2/C3 fracture, head lac 
and UTI. Evaluated by Neurosurgery and found to have concerns 
with possible vertebral artery injury. CTA was obtained. Planned 
for cervical collar in place, Q4H neuro checks, SBP <160, ADAT. 
CTA showed no evidence of arterial injury on CTA. Neurosurgery 
recommended C collar for 3 months, follow-up with Neurosurgery 
for repeat CT C spine. Patient also had a scalp lac which did 
not require closure. Recommendation was to keep clean and dry. 
She was started on antibiotics for 3 days for concern of UTI. ___ 
was consulted which  stated that she could go home. On discharge 
the patients pain was well controlled, she was hemodynamically 
stable on room air, she tolerated a regular diet, voided 
normally and ambulating with C-collar in place with no concerns. 
Patient will follow up with Neurosurgery or with a physician in 
___ and ___ obtain her images prior to going home. 

 
Medications on Admission:
-Alendronic acid 70mg every ___ morning
-Butec 5 mcg/h transdermal patch, ___ patch q7 days, every 
___
-Questran light PO suspension PRN diarrhea 
-Loperamide hydrochloride 2mg PRN diarrhea
-Prochlorperazine 5mg PRN labyrinthitis 
-Paracetamol 500mg tablets, 2 tablets QAM, 2 tablets ___
-Omeprazole 20mg QAM
-Bendroflumethiazide 150mg QAM
-Thyroxine 0.75mg QAM
-Iron, dose uncertain 
-Q10, dose uncertain
-Calcium, dose uncertain
-Vitamin D, dose uncertain
-Glucosamine, dose uncertain
-Statin (name uncertain) 40mg ___
-Fexofenadine 180mg daily

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Ciprofloxacin HCl 250 mg PO Q12H UTI 
RX *ciprofloxacin HCl [Cipro] 250 mg 1 tablet(s) by mouth twice 
a day Disp #*6 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
6.  Senna 8.6 mg PO BID:PRN constipation   
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UTI
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please obtain a disk of your imaging from medical records
 
Followup Instructions:
___